US07439396B2
Synthesis of 4-{2-[4-(Acetylethylamino)-3-tert-butylphenyl]-2-hydroxyiminoethoxy}-2-hydroxybenzoic acid:
In a manner similar to that of Example 1.g, by reaction of 370 mg (0.8 mmol) of allyl 4-{2-[4-(acetylethylamino)-3-tert-butylphenyl]-2-oxoethoxy}-2-hydroxybenzoate with 284 mg (4 mmol) of hydroxylamine hydrochloride and 320 μl of pyridine. A yellowish paste is obtained (m=380 mg, yield=99%).

reactant | allyl 4-{2-[4-(acetylethylamino)-3-tert-butylphenyl]-2-oxoethoxy}-2-hydroxybenzoate | 0.8 mmol, 370 mg | C(C)(=O)CCNC1=C(C=C(C=C1)C(COC1=CC(=C(C(=O)OCC=C)C=C1)O)=O)C(C)(C)C | C26H31NO6
reactant | hydroxylamine hydrochloride | 4 mmol, 284 mg | Cl.NO
solvent | pyridine | 320 μl | N1=CC=CC=C1 | C5H5N
product | 4-{2-[4-(Acetylethylamino)-3-tert-butylphenyl]-2-hydroxyiminoethoxy}-2-hydroxybenzoic acid | C(C)(=O)CCNC1=C(C=C(C=C1)C(COC1=CC(=C(C(=O)O)C=C1)O)=NO)C(C)(C)C | C23H28N2O6
